US09107923B2
Step 1. Synthesis of tert-butyl 7-methoxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indole-1-carboxylate (C55)
To a solution of tert-butyl 4-bromo-7-methoxy-1H-indole-1-carboxylate (which may be prepared via tert-butoxycarbonyl protection of 4-bromo-7-methoxy-1H-indole) (1.0 g, 3.1 mmol) in 1,4-dioxane (20 mL) were added 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi-1,3,2-dioxaborolane (1.46 g, 5.75 mmol), potassium acetate (902 mg, 9.19 mmol) and [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II), dichloromethane complex (498 mg, 0.610 mmol). The reaction mixture was stirred for 5 hours at 120° C., then cooled and filtered; the filtrate was concentrated under reduced pressure and purified via silica gel chromatography (Gradient: 0% to 6% ethyl acetate in petroleum ether) to afford the product as a yellow solid. Yield: 520 mg, 1.4 mmol, 45%. 1H NMR (400 MHz, CDCl3) δ 7.69 (d, J=8.0 Hz, 1H), 7.55 (d, J=3.5 Hz, 1H), 7.10 (d, J=3.6 Hz, 1H), 6.81 (d, J=8.0 Hz, 1H), 3.96 (s, 3H), 1.62 (s, 9H), 1.37 (s, 12H).

reactant | tert-butyl 4-bromo-7-methoxy-1H-indole-1-carboxylate | 3.1 mmol, 1.0 g | BrC1=C2C=CN(C2=C(C=C1)OC)C(=O)OC(C)(C)C | C14H16BrNO3
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi-1,3,2-dioxaborolane | 5.75 mmol, 1.46 g | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | potassium acetate | 9.19 mmol, 902 mg | C(C)(=O)[O-].[K+]
solvent | 1,4-dioxane | 20 mL | O1CCOCC1 | C4H8O2
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | tert-butyl 7-methoxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indole-1-carboxylate | COC=1C=CC(=C2C=CN(C12)C(=O)OC(C)(C)C)B1OC(C(O1)(C)C)(C)C | C20H28BNO5
